US07745438B2
(2R,3S,5R)-5-[(1S,2S)-2-Acetylamino-3-(2-ethylphenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester
Dissolve the diastereomeric mixture of amines from the previous reaction which contains (2R,3S,5R)-5-[(1S,2S)-2-amino-3-(2-ethylphenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester (418 mg, 0.9 mmol) in dry dichloromethane (7 mL) under a nitrogen atmosphere and add acetic anhydride (90 μL, 0.95 mmol) and triethylamine (150 μL, 1.1 mmol). After 4 hours quench with methanol, concentrate and purify (silica gel chromatography) to give a mixture of amide diastereomers containing the title compound (243 mg). Purify the resulting mixture by HPLC, eluting with 65:35 acetonitrile:water with 8 μM hydrochloric acid, to give the title compound as a single diastereomer (47 mg, 10% overall).

reactant | (2R,3S,5R)-5-[(1S,2S)-2-amino-3-(2-ethylphenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 0.9 mmol, 418 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=C(C=CC=C1)CC)N)O)OCC(C)(C)C)C | C26H44N2O5
reactant | acetic anhydride | 0.95 mmol, 90 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.1 mmol, 150 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | (2R,3S,5R)-5-[(1S,2S)-2-Acetylamino-3-(2-ethylphenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 243 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=C(C=CC=C1)CC)NC(C)=O)O)OCC(C)(C)C)C | C28H46N2O6
